US09351489B2
25 ml of DMF were cooled to 0° C. and POCl3 (4.95 g, 32.3 mmol, 2 eq.) added dropwise. The reaction was stirred 30 min at 0° C. and a solution of 2-chloro-acetophenone (2.5 g, 16.17 mmol, 1 eq.) in 15 ml of DMF was added. Once all added the reaction was warmed to 50° C. and stirred for 8 h. The mixture was cooled to 0° C. and hydroxylamine hydrochloride (4.49 g, 6.68 mmol, 4 eq.) was added by portions very carefully (exothermic). Once all added the reaction was stirred at r.t. for 2 h and quenched with H2O. The medium was basified until pH 2-3 was reached with 1N aq. NaOH and extracted with ethylacetate. The organic layer was washed with brine and dried over MgSO4. Removal of all volatiles under reduced pressure afforded 3-chloro-3-(2-chlorophenyl)acrylonitrile (2.01 g, 60% yield) as a mixture of isomers which was used without further purification.

reactant | POCl3 | 32.3 mmol, 4.95 g, 2 eq. | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 2-chloro-acetophenone | 16.17 mmol, 2.5 g, 1 eq. | ClCC(=O)C1=CC=CC=C1 | C8H7ClO
reactant | hydroxylamine hydrochloride | 6.68 mmol, 4.49 g, 4 eq. | Cl.NO
reactant | DMF | 15 ml | CN(C)C=O | C3H7NO
reactant | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 3-chloro-3-(2-chlorophenyl)acrylonitrile | 2.01 g, 60% yield | ClC(=CC#N)C1=C(C=CC=C1)Cl | C9H5Cl2N
